US06017919
1-Bromo-4-pentyloxynaphthalene-2-carbaldehyde (0.77 g, 2.4 mmol), t-butanol (4.8 ml) and 2-methyl-2-butene (1.71 ml, 16.1 mmol) were mixed, and a solution prepared by mixing sodium chlorite (360 mg, 3.12 mmol), sodium dihydrogenphosphate (374 mg, 3.12 mmol) and water (2.4 ml) was added dropwise. The mixture was stirred at room temperature for 16.5 hours. A 1N aqueous sodium hydroxide solution (5 ml) was added, and t-butanol was evaporated under reduced pressure. Conc. hydrochloric acid was added to make the mixture acidic. Saturated saturated brine (5 ml) was added, and the aqueous layer was extracted 3 times with ethyl acetate (10 ml). The organic layer was dried over anhydrous magnesium sulfate, and the drying agent was filtered off. The filtrate was concentrated under reduced pressure. The obtained residue was recrystallized from ethyl acetate to give 1-bromo-4-pentyloxynaphthalene-2-carboxylic acid (619 mg, 76%) as pale-yellow crystals.

reactant | 1-Bromo-4-pentyloxynaphthalene-2-carbaldehyde | 2.4 mmol, 0.77 g | BrC1=C(C=C(C2=CC=CC=C12)OCCCCC)C=O | C16H17BrO2
reactant | 2-methyl-2-butene | 16.1 mmol, 1.71 ml | CC(C)=CC | C5H10
reactant | sodium chlorite | 3.12 mmol, 360 mg | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 3.12 mmol, 374 mg | P(=O)(O)(O)[O-].[Na+]
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
solvent | water | 2.4 ml | O | H2O
solvent | t-butanol | 4.8 ml | C(C)(C)(C)O | C4H10O
product | 1-bromo-4-pentyloxynaphthalene-2-carboxylic acid | 619 mg, 76% | BrC1=C(C=C(C2=CC=CC=C12)OCCCCC)C(=O)O | C16H17BrO3
